US07671074B2
N-[(amino-4-methoxybenzylamino)-methylene]-4-methylbenzene-sulfonamide (6)
The compound of Example 6 was prepared according to the accompanying synthesis procedure from 0.5 ml of N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide solution (0.2 M, acetonitrile) with 19 mg of methanesulfonic acid and 0.5 ml of 4-methoxybenzylamine solution (1.0 M, acetonitrile) and filed in a substance databank. Calculated mol. wt. 333.41; found mol. wt. (M+H) 334.2; 667.0 (Dimer)

reactant | N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide | 0.2 M, 0.5 ml | CC1=NN(C(=C1)C)C(NS(=O)(=O)C1=CC=C(C=C1)C)=N | C13H16N4O2S
reactant | methanesulfonic acid | 19 mg | CS(=O)(=O)O | CH4O3S
reactant | 4-methoxybenzylamine | 1.0 M, 0.5 ml | COC1=CC=C(CN)C=C1 | C8H11NO
product | N-[(amino-4-methoxybenzylamino)-methylene]-4-methylbenzene-sulfonamide | NN(CC1=CC=C(C=C1)OC)C=NS(=O)(=O)C1=CC=C(C=C1)C | C16H19N3O3S
